US07468375B2
To a solution of methyl 3-(chloromethyl)-1-(2,4-difluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate (7.43 mL, 0.197M in CH2Cl2, 1.4645 mmol)) [prepared as described in step 2 of example 40] in anhydrous DMF (10 mL) was added (R)-(−)-2,2-Dimethyl-1,3-dioxolane-4-methanol (7.32 mmol, 0.91 mL, 5 eq.) followed by i-Pr2NEt (5.86 mmol, 1.02 mL, 4 eq.). The mixture, under nitrogen, was placed in an oil bath and the bath was warmed to 40° C. After stirring for 24 hours (40° C.) the reaction was judged to be complete by HPLC-MS analysis and the volatiles were removed in vacuo (ca. 2 torr) to give a golden yellow oil. The crude material was diluted with EtOAc (40 mL) and washed with water (4×20 mL) and brine (20 mL). The organic phase was separated, dried (Na2SO4), and concentrated in vacuo to afford the target compound, which was purified by chromatography on a column of silica gel (40 mm OD, 150 g, 230-400 mesh, packed with CH2Cl2, eluted with CH2Cl2-EtOAc-MeOH 70:30:2 v/v, 2.0 L, 25 mL fractions) using the flash technique. Fractions were combined to afford 0.520 g (83%) of methyl 3-({[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}methyl)-1-(4-fluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate. LC-MS (Eclipse XDB-C8, 0.8 mL/min, gradient 80:20 to 5:95H2O (+0.1% HOAc):CH3CN—5 minutes, ESI, +mode): RT-2.98 min, m/e=429.1 (M+H+, base). 1H-NMR (300 MHz, CDCl3): o=1.38 (s, 3H), 1.42 (s, 3H), 3.53 (m, 2H), 3.72 (m, 1H), 4.04 (m, 4H), 4.27 (m, 1H), 4.78 (q, 2H), 5.38 (s, 2H), 7.05 (t, 2H), 7.17 (m, 2H), 7.32 (s, 1H), 8.56 (s, 1H), 8.77 (s, 1H).

reactant | methyl 3-(chloromethyl)-1-(2,4-difluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 1.4645 mmol, 0.197M, 7.43 mL | ClCC1=CN(C2=CN=C(C=C21)C(=O)OC)CC2=C(C=C(C=C2)F)F | C17H13ClF2N2O2
reactant | (R)-(−)-2,2-Dimethyl-1,3-dioxolane-4-methanol | 7.32 mmol, 0.91 mL, 5 eq. | CC1(OC[C@H](O1)CO)C | C6H12O3
reactant | i-Pr2NEt | 5.86 mmol, 1.02 mL, 4 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | methyl 3-({[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}methyl)-1-(4-fluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 0.520 g, 83% | CC1(OC[C@H](O1)COCC1=CN(C2=CN=C(C=C21)C(=O)OC)CC2=CC=C(C=C2)F)C | C23H25FN2O5
